data/mechanism_extracts/GreenChem/10.1039_D5GC03120F_sup_1.json
{"doi": "10.1039_D5GC03120F_sup_1", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical 1,4-dimethoxylation of aryl-substituted 1,3-dienes with methanol via a radical pathway, with subsequent conversion of the allylic dimethoxy product to an allylic carbamate using CSI.", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation generates methoxy radical (·OMe) from methanol and oxidizes the aryl diene/allyl intermediate; radical coupling delivers the 1,4-dimethoxy product.", "key_intermediates": [{"name": "allyl/benzyl radical intermediate II (methoxy-added diene radical)", "smiles": null, "role": "reactive"}, {"name": "methoxy radical (·OMe)", "smiles": "[O]C", "role": "reactive"}, {"name": "1,2-selective radical intermediate (higher energy)", "smiles": null, "role": "off_pathway"}, {"name": "1,4-selective radical intermediate (lower energy)", "smiles": null, "role": "reactive"}], "electron_flow": "Anodic oxidation of MeOH generates a methoxy radical that adds to the aryl 1,3-diene to form a delocalized allyl/benzyl radical (intermediate II); a second ·OMe couples to the remote (1,4) position, producing the 1,4-dimethoxy product 2a.", "rate_determining_step": "Coupling of intermediate II with ·OMe (vs. H-abstraction from MeOH); DFT shows pathway (2) is favored (ΔG = -50.85 kcal/mol) over pathway (1) via TS2 at +72.15 kcal/mol.", "probe_reagents": [{"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "BHT-OMe adduct (2,6-di-tert-butyl-4-(methoxymethyl)phenol) isolated in 39% yield; target product 2a not detected, indicating radical involvement."}], "evidence_types_used": ["intermediate_trap_BHT", "DFT", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Two radical pathways considered from intermediate II to 2a: pathway (1) H-atom transfer from neutral MeOH via TS2 (+72.15 kcal/mol, releasing H·) and pathway (2) direct coupling with ·OMe (-50.85 kcal/mol). Pathway (2) is strongly favored. A relaxed PES scan of the C–O distance also shows the 1,4-selective intermediate is more stable than the 1,2-selective one (minimum near 1.9 Å for 1,2; lower-energy 1,4 region), rationalizing 1,4- over 1,2-selectivity. Compound 5a is a downstream derivatization (CSI/Na2CO3 then Na2SO3/KOH) of 2a, not part of the electrochemical mechanism."}
